US09062075B2
Step-(i): Synthesis of ethyl 1,4-dithiaspiro[4.5]decane-8-carboxylate (N)
To a stirred solution of ethyl 4-oxocyclohexane carboxylate (5 g, 29.41 mmol) and ethane-1,2-dithiol (4.14 g, 44.11 mmol) in DCM (25 mL) was added BF3.Et2O (4.17 g, 29.41 mmol) at 0° C. and the reaction mixture was allowed to stir at 20-35° C. for 2 h. Then the reaction mixture was rotary evaporated under vacuum to get residue which was purified by column chromatography using mixture of 5% ethyl acetate/hexane as an eluent to get the desired compound as a yellow liquid (5.4 g, 75%); 1H NMR (400 MHz, DMSO-d6) δ 4.05 (q, J=7.4 Hz, 2H), 3.34-3.26 (m, 4H), 2.42-2.34 (m, 1H), 2.10-2.02 (m, 2H), 1.96-1.84 (m, 4H), 1.66-1.54 (m, 2H), 1.17 (t, J=7.3 Hz, 3H).

reactant | ethyl 4-oxocyclohexane carboxylate | 29.41 mmol, 5 g | O=C1CCC(CC1)C(=O)OCC | C9H14O3
reactant | ethane-1,2-dithiol | 44.11 mmol, 4.14 g | C(CS)S | C2H6S2
reactant | BF3.Et2O | 29.41 mmol, 4.17 g | B(F)(F)F.CCOCC
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | ethyl 1,4-dithiaspiro[4.5]decane-8-carboxylate | 5.4 g, 75% | S1CCSC12CCC(CC2)C(=O)OCC | C11H18O2S2
